US06331538B1
3-Benzyloxy-5,6,7,8-tetrafluoro-1H-quinazoline-2,4-dione
A solution of 2-amino-N-benzyloxy-3,4,5,6-tetrafluoro-benzamide (Example V-3, 1.72 g, 5.47 mmol) in 1,4-dioxane (50 mL) was reacted with a 20% solution of phosgene (4.25 mL, 8.00 mmol) in toluene and heated to 80° C. in a sealed tube for 18 hours. The mixture was then cooled, diluted with ethyl acetate, and washed with saturated aqueous NaHCO3. The organic layer was dried with magnesium sulfate and concentrated. The residue was triturated with diethyl ether and filtered to provide 0.95 g of the title compound as a solid.

reactant | 2-amino-N-benzyloxy-3,4,5,6-tetrafluoro-benzamide | 5.47 mmol, 1.72 g | NC1=C(C(=O)NOCC2=CC=CC=C2)C(=C(C(=C1F)F)F)F | C14H10F4N2O2
reactant | phosgene | 8.00 mmol, 4.25 mL | C(=O)(Cl)Cl | CCl2O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Benzyloxy-5,6,7,8-tetrafluoro-1H-quinazoline-2,4-dione | 0.95 g | C(C1=CC=CC=C1)ON1C(NC2=C(C(=C(C(=C2C1=O)F)F)F)F)=O | C15H8F4N2O3
